US05329012
N-Phenylglycine ethyl ester (100 g; 0-56 mol) was added in small portions to acetic formic anhydride (100 g; 1.14 mol) with vigorous stirring. The mixture was allowed to stir overnight, then it was poured into water, and extracted with ether. The ether solution was washed with sodium bicarbonate solution and then with water. The ether was evaporated in vacuo to give an oil which was distilled to give N-phenyl-N-formylglycine ethyl ester (81 g; 70%) having a bp 115°-117° C.

reactant | N-Phenylglycine ethyl ester | 0-56 mol, 100 g | C(C)OC(CNC1=CC=CC=C1)=O | C10H13NO2
reactant | acetic formic anhydride | 1.14 mol, 100 g | C(=O)OC(C)=O | C3H4O3
solvent | water | O | H2O
product | N-phenyl-N-formylglycine ethyl ester | 81 g, 70% | C(C)OC(CN(C=O)C1=CC=CC=C1)=O | C11H13NO3
